US05658920
(1) 3,5-Diacetylamino-8-methyl-4-thiochromanone
To 3 ml of a THF solution containing 153 mg of potassium-t-butoxide was added 9 ml of a THF solution containing 291 mg of 5-acetylamino-8-methyl-4-thiochromanone [J. Heterocyclic Chem., 11, 515 (1974)]. After stirring for 5 minutes, 0.22 ml of n-butyl nitrite was added to the mixture, followed by further stirring for 1 hour at room temperature. After the addition of 20 ml of ether, the reaction mixture was stirred for another 1 hour. The deposited precipitate was collected by filtration, washed thoroughly with ether, and dissolved into a mixture of 20 ml of acetic acid and 20 ml of acetic anhydride. To the solution was added about 200 mg of zinc powder at room temperature while stirring. After the addition, the stirring was continued for a further 0.5 hour. Insoluble substances were removed by filtration, the solvent was evaporated, and 20 ml of chloroform was added to the residue. The residue, after washing with water, saturated aqueous solution of sodium hydroxide, and saturated brine in this order, was dried over anhydrous sodium sulfate. After evaporating the solvent, the residue was subjected to silica gel column chromatography using a hexane-ethyl acetate (4:1) mixed solvent as an eluant to obtain fractions containing the target compound. The fractions were concentrated to produce 109 mg of the title compound.

reactant | THF | 3 ml | C1CCOC1 | C4H8O
reactant | potassium-t-butoxide | 153 mg | CC(C)([O-])C.[K+]
reactant | THF | 9 ml | C1CCOC1 | C4H8O
reactant | 5-acetylamino-8-methyl-4-thiochromanone | 291 mg | C(C)(=O)NC1=C2C(CCSC2=C(C=C1)C)=O | C12H13NO2S
reactant | n-butyl nitrite | 0.22 ml | N(=O)OCCCC | C4H9NO2
solvent | ether | 20 ml | CCOCC | C4H10O
product | 3,5-Diacetylamino-8-methyl-4-thiochromanone | 109 mg | C(C)(=O)NC1CSC2=C(C=CC(=C2C1=O)NC(C)=O)C | C14H16N2O3S
